US04897401
A mixture of 4.5 parts of 2-(phenoxymethyl)oxirane, 4.65 parts of 1-[(5-methyl-2-furanyl)methyl]-N-(4-piperidinyl)-1H-benzimidazol-2-amine and 120 parts of methanol was stirred overnight at room temperature. The precipitated product was filtered off and dried, yielding 3.1 parts (44.8%) of 4-[[1-[(5-methyl-2-furanyl)methyl]-1H-benzimidazol-2-yl]amino]-α-(phenoxymethyl)-1-piperidineethanol; mp. 164.8° C. (compound 25).

reactant | 2-(phenoxymethyl)oxirane | O(C1=CC=CC=C1)CC1OC1 | C9H10O2
reactant | 1-[(5-methyl-2-furanyl)methyl]-N-(4-piperidinyl)-1H-benzimidazol-2-amine | CC1=CC=C(O1)CN1C(=NC2=C1C=CC=C2)NC2CCNCC2 | C18H22N4O
solvent | methanol | CO | CH4O
product | 4-[[1-[(5-methyl-2-furanyl)methyl]-1H-benzimidazol-2-yl]amino]-α-(phenoxymethyl)-1-piperidineethanol | 44.8% | CC1=CC=C(O1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CC(O)COC2=CC=CC=C2 | C27H32N4O3
